### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): isomorphic hypercovers have equivalent sheaf conditions

### PR DESCRIPTION
**Pull request by chrisflav**
More precisely, we show that if `E` and `F` are isomorphic `1`-hypercovers, the associated multifork of `E` is exact if and only if the one for `F` is exact.
Note that the same statement holds if `E` and `F` are homotopy equivalent, but, under mathlib's definition, for a general pre-`1`-hypercover `E` the identity refinement is not necessarily homotopic to itself.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Hypercover/One.lean [hunk 1]
```diff
@@ -393,14 +393,34 @@ def Hom.mapMultiforkOfIsLimit (f : E.Hom F) (P : Cᵒᵖ ⥤ A) {c : Multifork (
...
+variable (f : E.Hom F) (P : Cᵒᵖ ⥤ A)
+  {c : Multifork (E.multicospanIndex P)} (hc : IsLimit c) {d : Multifork (F.multicospanIndex P)}
+
+@[simp]
+lemma Hom.mapMultiforkOfIsLimit_id (d : Multifork (E.multicospanIndex P)) :
+    (Hom.id E).mapMultiforkOfIsLimit P hc d = Multifork.IsLimit.lift hc d.ι d.condition := by
+  apply Multifork.IsLimit.hom_ext hc
+  simp
+
+lemma Hom.mapMultiforkOfIsLimit_comp (g : F.Hom G) (t : Multifork (G.multicospanIndex P))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Hypercover/One.lean:416]:
```suggestion
@[reassoc]
lemma Hom.mapMultiforkOfIsLimit_comp (g : F.Hom G) (t : Multifork (G.multicospanIndex P))
```

File: Mathlib/CategoryTheory/Sites/Hypercover/One.lean [hunk 2]
```diff
@@ -608,6 +658,148 @@ def isoMk {S : C} {E F : PreOneHypercover S}
...
+  map_comp
+    | .id _, _ => by simp
+    | .fst _, .id _ => by simp
+    | .snd _, .id _ => by simp
+
+/-- Isomorphic pre-`1`-hypercovers have equivalent mutifork index categories. -/
+@[simps! functor inverse]
+def equivalenceMulticospanOfIso {E F : PreOneHypercover.{w} S} (f : E ≅ F) :
+    WalkingMulticospan E.multicospanShape ≌ WalkingMulticospan F.multicospanShape := by
+  refine .mk f.hom.mapMulticospan f.inv.mapMulticospan ?_ ?_
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Hypercover/One.lean]: Could you try to show the triangle identity?

**Comment by chrisflav** [comment]
Thanks @joelriou!
